### PR TITLE
Message Equivocation Results.

### PR DESCRIPTION
**Pull request by traiansf**
This PR mostly adds message-equivocating-related results, including:

- Fixed Message Equivocation implies Limited Message Equivocation
- Shows that messages properties are reflected and, in some cases, preserved by VLSM projections
- Shows that the sub-composition of all nodes is trace-equivalent to the normal composition

### CODE REVIEW

File: VLSM/EquivocationProjections.v [hunk 1]
```diff
@@ -0,0 +1,294 @@
...
+
+Context
+  (selectorX : message -> vtransition_item X -> Prop)
+  (selectorY : message -> vtransition_item Y -> Prop)
+  (Hselector : forall itemX itemY,
+    input itemX = input itemY -> output itemX = output itemY ->
+    forall m, selectorX m itemX <-> selectorY m itemY)
+  .
+
+(** Given the fact that [oracle_reflect] satisfies the [oracle_stepwise_props],
```
Comment (bmmoore) [inline VLSM/EquivocationProjections.v:32]: What is `oracle_reflect`? This seems to assume you have `oracleX` and `oracleY` which separately satisfy the oracle properties for the separate VLSMs.
From the earlier comments I thought that given a projection and an oracle on one VLSM you could construct an oracle on the other (and I wasn't sure which direction would be "projection" vs. "reflection"), but all these results seem to say that if you have oracles for equivalent selectors on both sides and a projection between, then the result of the oracle agrees. That's a reasonable result, but not quite as big a step as I expected.

File: VLSM/EquivocationProjections.v [hunk 2]
```diff
@@ -0,0 +1,294 @@
...
+    subst tr.
+    setoid_rewrite map_app.
+    apply List.Exists_app. right. simpl. left.
+    remember  (pre_VLSM_full_projection_trace_item_project _ _ _ _ _) as itemY.
+    specialize (Hselector item itemY). subst. destruct item.
+    apply (Hselector eq_refl eq_refl).
+    assumption.
+Qed.
+
+Lemma VLSM_weak_full_projection_oracle
```
Comment (bmmoore) [inline VLSM/EquivocationProjections.v:161]: Can't this use VLSM_projection_oracle_reflect, or the other way around? I expected this to take advantage of the inclusions between various strengths of VLSM projections.

File: VLSM/Equivocation/LimitedEquivocation.v [hunk 3]
```diff
@@ -83,3 +82,134 @@ Proof.
...
+    := equivocation_dec_tracewise IM (fun i => i) sender finite_index)
+  (tracewise_not_heavy := @not_heavy _ _ _ _ Htracewise_basic_equivocation)
+  (tracewise_equivocating_validators := @equivocating_validators _ _ _ _ Htracewise_basic_equivocation)
+  .
+
+Lemma StrongFixed_protocol_state_not_heavy s
+  (Hs : protocol_state_prop StrongFixed s)
+  : tracewise_not_heavy s.
+Proof.
+  cut (tracewise_equivocating_validators s ⊆ equivocators).
```
Comment (bmmoore) [inline VLSM/Equivocation/LimitedEquivocation.v:134]: Looks like a reasonable argument, but there seems to be a fair bit of code destructuring and rearranging things to make lemmas fit. Maybe you could find some generally useful lemmas about inclusions or traces or something that would simplify this proof.

**Review by bmmoore — APPROVED** [review]
A comment in EquivocationsProjections.v seems refer to a nonexistent `oracle_reflect`. Please fix that before merging, but I'm marking this "approved" because that shouldn't need much of a re-review and my holiday shouldn't further delay this.

Everything else is commentary.

**Comment by traiansf** [comment]
@bmmoore thanks a lot for taking time to do this. Enjoy the remainder of your holiday!

File: VLSM/EquivocationProjections.v (hunk 1 above)
Comment (traiansf) [reply VLSM/EquivocationProjections.v:32]: Yes, originally there was an oracle constructed for X from the one for Y; however, proofs were rather involved and we didn't gain much by that, so I decided to drop it, but apparently I didn't properly updated the documentation. Thanks for catching it.

File: VLSM/EquivocationProjections.v (hunk 2 above)
Comment (traiansf) [reply VLSM/EquivocationProjections.v:161]: The difference between `projections` and `full_projection`s is that in the first case some transitions (with their messages) are lost in the projection.  Hence for simple projections we cannot hope to have an oracle preservation result like this one.

However, we do use the reflection results below to show they also hold for `full projections`

File: VLSM/Equivocation/LimitedEquivocation.v (hunk 3 above)
Comment (traiansf) [reply VLSM/Equivocation/LimitedEquivocation.v:134]: Point noted. But maybe let's get back to this when reviewing PR #260 as that already bring a bit of simplification due to the removal of `generalized_fixed...` stuff.
